US07423030B2
7.2. 7-Methoxy-4-(3-methoxyphenyl)-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting unpurified 5-methoxy-2-(3-methoxybenzoyl)benzoic acid with hydrazine hydrate.

reactant | 5-methoxy-2-(3-methoxybenzoyl)benzoic acid | COC=1C=CC(=C(C(=O)O)C1)C(C1=CC(=CC=C1)OC)=O | C16H14O5
reactant | hydrazine hydrate | O.NN
product | 7-Methoxy-4-(3-methoxyphenyl)-2H-phthalazin-1-one | COC1=CC=C2C(=NNC(C2=C1)=O)C1=CC(=CC=C1)OC | C16H14N2O3
